US06921763B2
rac-N2-(4-{4-Amino-1-[1-(2-methoxyethyl)tetrahydro-1H-3-pyrrolyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}phenyl)-5-ethyl-1,3-benzoxazol-2-amine monoacetate was prepared from rac-3-iodo-1-[1-(2-methoxyethyl)tetrahydro-1H-3-pyrrolyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine (0.200 g, 0.319 mmol) and N2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-5-ethyl-1,3-benzoxazol-2-amine (0.145 g, 0.399 mmol) in a manner similar to that used for the preparation of cis-N2-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-2-fluorophenyl)-1,3-benzoxazol-2-amine. The compound was formed as a white solid (0.082 g, 52%). 1H NMR (DMSO-d6, 400 MHz) 1.23 (t, 3H), 1.90 (s, 3H), 2.33-3.47 (m, 10H), 2.66 (q, 2H), 3.25 (s, 3H), 5.40 (m, 1H), 6.99 (d, 1H), 7.33 (s, 1H), 7.40 (d, 1H), 7.66 (d, 2H), 7.93 (d, 2H), 8.25 (s, 1H), 10.81 (s, 1H); RP-HPLC Rt 11.781 min, 93% purity (5% to 85% acetonitrile/0.1M aqueous ammonium acetate, buffered to pH 4.5, over 20 min at 1 mL/min; λ=254 nm; Deltapak C18, 300 Å, 5 μm, 150×3.9 mm column); m/z 499 (MH+).

reactant | rac-3-iodo-1-[1-(2-methoxyethyl)tetrahydro-1H-3-pyrrolyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.319 mmol, 0.200 g | IC1=NN(C2=NC=NC(=C21)N)C2CN(CC2)CCOC | C12H17IN6O
reactant | N2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-5-ethyl-1,3-benzoxazol-2-amine | 0.399 mmol, 0.145 g | CC1(OB(OC1(C)C)C1=CC=C(C=C1)NC=1OC2=C(N1)C=C(C=C2)CC)C | C21H25BN2O3
reactant | cis-N2-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-2-fluorophenyl)-1,3-benzoxazol-2-amine | NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C=C2)NC=2OC1=C(N2)C=CC=C1)F)[C@@H]1CC[C@@H](CC1)N1CCN(CC1)C | C29H32FN9O
product | rac-N2-(4-{4-Amino-1-[1-(2-methoxyethyl)tetrahydro-1H-3-pyrrolyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}phenyl)-5-ethyl-1,3-benzoxazol-2-amine monoacetate | C(C)(=O)O.NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)NC=2OC1=C(N2)C=C(C=C1)CC)C1CN(CC1)CCOC | InChI=1S/C27H30N8O2.C2H4O2/c1-3-17-4-9-22-21(14-17)32-27(37-22)31-19-7-5-18(6-8-19)24-23-25(28)29-16-30-26(23)35(33-24)20-10-11-34(15-20)12-13-36-2;1-2(3)4/h4-9,14,16,20H,3,10-13,15H2,1-2H3,(H,31,32)(H2,28,29,30);1H3,(H,3,4)
